US04945098
1-Hexadecanoyloxy-3-[8-(1-pyridinio)octanoyloxy]-2-methylenepropane bromide
1-Hexadecanoyloxy-3-(8-bromooctanoyloxy)-2-methylenepropane (from Preparation 30) (0.80 g) was dissolved in dry pyridine (20 ml) and heated to 100° C. for 8 hours. Excess pyridine was removed in vacuo.

reactant | 1-Hexadecanoyloxy-3-(8-bromooctanoyloxy)-2-methylenepropane | 0.80 g | C(CCCCCCCCCCCCCCC)(=O)OCC(COC(CCCCCCCBr)=O)=C | C28H51BrO4
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1-Hexadecanoyloxy-3-[8-(1-pyridinio)octanoyloxy]-2-methylenepropane bromide | [Br-].C(CCCCCCCCCCCCCCC)(=O)OCC(COC(CCCCCCC[N+]1=CC=CC=C1)=O)=C | InChI=1S/C33H56NO4.BrH/c1-3-4-5-6-7-8-9-10-11-12-13-15-19-24-32(35)37-29-31(2)30-38-33(36)25-20-16-14-17-21-26-34-27-22-18-23-28-34;/h18,22-23,27-28H,2-17,19-21,24-26,29-30H2,1H3;1H/q+1;/p-1
